US08790678B2
PEG-vinylsulfone (PEG-VS) was synthesized from four-arm or eight-arm PEG (mol. wt. 10,000, Shearwater Polymers, Huntsville, Ala.) in four steps using a modification of the methods described by Morpurgo et al. (Bioconjugate Chemistry, 1996, 7: 363-368). In the first step, PEGmesylate was formed by the reaction of mesyl chloride with PEG under nitrogen. PEG (25 g) dissolved in 300 mL toluene was dried by azeotropic distillation until the final volume was 150 mL. After cooling, 50 mL of dichloromethane (DCM) was added to prevent precipitation of PEG. The solution was cooled on ice for 15 min, and 5.58 mL triethylamine (TEA, 2 equiv.) was added. Next, 3.10 mL methane sulfonyl chloride (2 equiv.) was added dropwise and allowed to react for 20 h. The TEA salt was filtered out and the total volume was reduced to approx. 20 mL by rotary evaporation. PEG was precipitated by addition of ice-cold diethyl ether, recovered by filtration, and dried under vacuum: 1H NMR (CDCl3) 3.13 ppm (s, 3H, —SO2CH3), 3.61 ppm (PEG backbone), 4.35 ppm (t, 2H, —CH2OSO2—). In the second step, PEG-mesylate was reacted with β-mercaptoethanol to form PEG-hydroxyethylsulfide. The PEG-mesylate (15.5 g) was dissolved in 150 mL sodium borate buffer (50 mM, pH 8), 3.5 mL of 14.3 M β-mercaptoethanol (4 equiv.) was added, and the solution was allowed to react at reflux under nitrogen for 3 h. The PEG was extracted twice with DCM, and the volume was reduced to approx. 20 mL by rotary evaporation. PEG was precipitated by addition of ice-cold diethyl ether, recovered by filtration, and dried under vacuum: 1H NMR (CDCl3) 2.72 ppm (t, 2H, —CH2S—), 2.75 ppm (t, 2H, —SCH2—), 3.61 ppm (PEG backbone). Next, the sulfide was oxidized using hydrogen peroxide to form PEG-hydroxyethylsulfone. PEG-hydroxyethylsulfide (12.79 g) was dissolved in 50 mL distilled water with 1.69 g sodium tungstate (0.5 equiv.). The solution was cooled to near 0° C. and reacted with 2.09 mL 30% hydrogen peroxide (2 equiv.) overnight on ice. The PEG was extracted twice with DCM. The total volume of DCM was reduced to approx. 20 mL by rotary evaporation. PEG was precipitated by addition of ice-cold diethyl ether, recovered by filtration, and dried under vacuum: 1H NMR (CDCl3) 3.32 ppm (t, 2H, —CH2SO2—), 3.39 ppm (t, 2H, —SO2CH2—), 3.61 ppm (PEG backbone), 3.92 ppm (t, 2H, —OCH2CH2SO2—), 4.03 ppm (t, 2H, —SO2CH2CH2OH). In the final step, the hydroxyethylsulfone was converted to a vinyl sulfone. PEG-hydroxyethylsulfone (7.97 g) was dried by azeotropic distillation in toluene until the final volume was 150 mL. After cooling, 50 mL DCM was added to prevent precipitation of the PEG. The solution was cooled on ice for 15 min, then 2.68 mL TEA (3 equiv.) was added. Next, 0.75 mL mesyl chloride (1.5 equiv.) was added dropwise, and the solution was allowed to react for 24 h. Another 2.68 mL TEA (3 equiv.) was added, followed by 0.75 mL mesyl chloride (1.5 equiv. added dropwise), and the reaction was carried out overnight. The TEA salt was filtered out and the total volume was reduced to approx. 20 mL by rotary evaporation. PEG was precipitated by addition of ice-cold diethyl ether, recovered by filtration, and dried under vacuum: 1H NMR (CDCl3) 3.61 ppm (PEG backbone), 6.04 ppm (d, 1H, ═CH2), 6.35 ppm (d, 1H, ═CH2), 6.79 ppm (q, 1H, —SO2CH═).

reactant | PEG-mesylate | 15.5 g | COS(=O)(=O)O.C(CO)O
reactant | β-mercaptoethanol | 14.3 M, 3.5 mL, 4 equiv. | SCCO | C2H6OS
solvent | sodium borate | 50 mM, 150 mL, pH 8 | B([O-])([O-])[O-].[Na+].[Na+].[Na+]
product | hydroxyethylsulfone | OCCS(=O)(=O)CCO | C4H10O4S
